*

* model
*.include irf520.lib
*XM1 VR Vin 0 IRF520

.include ../models/bss83.lib

M1 VR Vin 0 0 BSS83 W=1e-3 L=1e-6
R1 Vdd VR 1000

V_dd Vdd 0 dc 5.
V_in Vin 0 ac 1 sin(1.0 1.0 100MEG 0 0)

*C1 Vin 1 330p IC=0
*C2 2   0 330p IC=0

*----------------------------------------------

.save time v(vin) v(vr)

.tran 100p .2u 0


.op

.END
