*

*------------- Models -------------------------
*.include /usr/share/oregano/models/1N4148.model
*----------------------------------------------
.model M_D1N1418 d(IS=0.1PA, RS=16 CJO=2PF TT=12N BV=100 IBV=0.1PA)

*******************************************************************
* SMALL SIGNAL SCHOTTKY DIODE 10V....40V
*******************************************************************

*******************************************************************
* Model name       : BAT60JFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOD-323
*******************************************************************
.MODEL BAT60JFILM D(IS=20.053E-9 N=.93972 RS=.18722 IKF=614.92 CJO=101.96E-12
+ M=.39267 VJ=.3905 ISR=650.19E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)
*$

*******************************************************************
* Model name       : BAS69KFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOD-523
*******************************************************************
.MODEL BAS69KFILM D(IS=346.55E-15 N=.6026 RS=10.622 IKF=66.178 CJO=619.57E-15
+ M=.5418 VJ=9.9900 ISR=20.602E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)
*$

*******************************************************************
* Model name       : BAS69WFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOT-323
*******************************************************************
*model BAS69WFILM 	anode
*		    		| cathode
*		    		| |
.subckt BAS69WFILM	A K
d1 A K dx
.model dx	D(IS=346.55E-15 N=.6026 RS=10.622 IKF=66.178 CJO=619.57E-15 M=.5418
+			VJ=9.9900 ISR=20.602E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)

*	STMicroelectronics	case=SOT-323   Delivery= Tape reel
.ends

.model BAR42 D(
+ IS=1.13853e-08 ISR=3.26235e-08 RS=0.99517
+ CJO=9.26191e-12 VJ=1.6 M=0.411631 BV=33 EG=0.7 )


*D1 1 0 M_D1N1418
*D2 2 1 M_D1N1418
*D1 1 0 BAS69KFILM
*D2 2 1 BAS69KFILM

V_D1S 1 nD1 0
D1 nD1 0 BAR42
V_D2S VdcOut nD2 0
D2 nD2 1 BAR42

V_V1 Vs 0 sin(0.0 1 100MEG 0 0)
Rs Vs Vin 10
*V_V1 Vin 0 pulse(-0.5 0.5 0 0.1u 0.1u 4.8u 10u)

V_C1S Vin nC1 0
C1 nC1 1 1n IC=0
V_C2S VdcOut nC2 0
C2 nC2 0 1n IC=0

*----------------------------------------------

.save time v(vin) v(1) v(vdcout) i(v_c1s) i(v_c2s) i(v_d1s) i(v_d2s)

*gnucap
.tran 0.1u 10u 0

*ngspice
*.tran 1u 100u 0



.op

.END
