*

*------------- Models -------------------------
*.include /usr/share/oregano/models/1N4148.model
*----------------------------------------------
.model M_D1N1418 d(IS=0.1PA, RS=16 CJO=2PF TT=12N BV=100 IBV=0.1PA)

*******************************************************************
* SMALL SIGNAL SCHOTTKY DIODE 10V....40V
*******************************************************************

*******************************************************************
* Model name       : BAT60JFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOD-323
*******************************************************************
.MODEL BAT60JFILM D(IS=20.053E-9 N=.93972 RS=.18722 IKF=614.92 CJO=101.96E-12
+ M=.39267 VJ=.3905 ISR=650.19E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)
*$

*******************************************************************
* Model name       : BAS69KFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOD-523
*******************************************************************
.MODEL BAS69KFILM D(IS=346.55E-15 N=.6026 RS=10.622 IKF=66.178 CJO=619.57E-15
+ M=.5418 VJ=9.9900 ISR=20.602E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)
*$

*******************************************************************
* Model name       : BAS69WFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOT-323
*******************************************************************
*model BAS69WFILM 	anode
*		    		| cathode
*		    		| |
.subckt BAS69WFILM	A K
d1 A K dx
.model dx	D(IS=346.55E-15 N=.6026 RS=10.622 IKF=66.178 CJO=619.57E-15 M=.5418
+			VJ=9.9900 ISR=20.602E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)

*	STMicroelectronics	case=SOT-323   Delivery= Tape&reel
.ends

.model BAR42 D(
+ IS=1.13853e-08 ISR=3.26235e-08 RS=0.99517
+ CJO=9.26191e-12 VJ=1.6 M=0.411631 BV=33 EG=0.7 )


*D1 1 0 M_D1N1418
*D2 2 1 M_D1N1418
*D1 1 0 BAS69KFILM
*D2 2 1 BAS69KFILM

V_D11S nD11 V1 0
D11 a1 nD11 BAR42
V_D12S nD12 V2 0
D12 b1 nD12 BAR42
D13 c1 V3 BAR42
D14 d1 V4 BAR42

V_D21S nD21 a1 0
D21 0  nD21 BAR42
V_D22S nD22 b1 0
D22 V1 nD22 BAR42
D23 V2 c1 BAR42
D24 V3 d1 BAR42

V_V1 Vs 0 dc 0.0 ac 0 sin(0.0 1.0 100MEG 0 0)
V_RSS nRs Vin 0
Rs Vs nRs 10
*Cin Vin1 Vin 3p
*Lin Vin  0  10n
Rl V4 0 1MEG

V_C11S Vin nC11 0
C11 nC11 a1 500p IC=0
V_C12S Vin nC12 0
C12 nC12 b1 500p IC=0
C13 Vin c1 500p IC=0
C14 Vin d1 500p IC=0

V_C21S V1 nC21 0
C21 nC21 0 500p IC=0
V_C22S V2 nC22 0
C22 nC22 0 500p IC=0
C23 V3  0  500p IC=0
C24 V4  0  500p IC=0

*----------------------------------------------

.save time v(vin) v(v1) v(v2) v(v3) v(v4) i(v_c11s) i(v_c21s) i(v_c12s) i(v_c22s) i(v_d11s) i(v_d21s) i(v_d12s) i(v_d22s) i(v_rss)

*gnucap
*.tran 50p 20u 19u
.tran 5n 15u 0


.op

.END
